US07977344B2
2-[(2-Methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine
2-Chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine (0.20 g) was added to a suspension of 2-methyl-1-propanol (2 mL) and sodium tert-butoxide (0.288 g). The mixture was heated in a microwave for 30 minutes at 105° C. The reaction mixture was washed with water after diluting with ethyl acetate (50 mL). The organic was separated and dried by passing through a hydrophobic frit before volatiles were stripped off under reduced pressure to give a pinkish solid. This material was triturated with diethyl ether and filtered to give the title compound as a pinkish solid (91.1 mg).

reactant | 2-Chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 0.20 g | ClC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N | C11H14ClN5O
reactant | sodium tert-butoxide | 0.288 g | CC(C)([O-])C.[Na+]
reactant | 2-methyl-1-propanol | 2 mL | CC(CO)C | C4H10O
product | 2-[(2-Methylpropyl)oxy]-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-Purin-6-amine | 91.1 mg | CC(COC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N)C | C15H23N5O2
